US05183938
Low temperatures also reduce side reactions with hydrazine as well as the reaction of the acid chloride with methanol Therefore the hydrazine solution and the 4,4,4-trinitrobutyryl chloride solution are mixed together at a temperature in the range of preferably about -40° C. to -100° C., more preferably from -60° C. to -90° C., and still more preferably from -70° C. to -85° C., with about -78° C. being most preferred. The resulting reaction solution is then put in ambient (room) temperature environment and allowed to warm up to a temperature in the range of from about -5° C. to about 25° C. The product N,N'-bis(4,4,4-trinitrobutyryl)hydrazine is then isolated using conventional techniques as illustrated in the example.

reactant | hydrazine | NN | H4N2
reactant | 4,4,4-trinitrobutyryl chloride | [N+](=O)([O-])C(CCC(=O)Cl)([N+](=O)[O-])[N+](=O)[O-] | C4H4ClN3O7
solvent | methanol | CO | CH4O
product | N,N'-bis(4,4,4-trinitrobutyryl)hydrazine | [N+](=O)([O-])C(CCC(=O)NNC(CCC([N+](=O)[O-])([N+](=O)[O-])[N+](=O)[O-])=O)([N+](=O)[O-])[N+](=O)[O-] | C8H10N8O14
